US05021481
2,4,8,10-Tetra-tert-butyl-6-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxy) dibenzo[d,f][1,3,2]dioxaphosphepin
The title compound is prepared from 4-hydroxy-1-methoxy-2, 2,6,6-tetramethylpiperidine and 2,4,8,10-tetra-tert-butyl-6-chlorodibenzo [d,f][1,3,2]dioxaphosphepin according to the procedure of Example 1C.

reactant | 4-hydroxy-1-methoxy-2, 2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
reactant | 2,4,8,10-tetra-tert-butyl-6-chlorodibenzo [d,f][1,3,2]dioxaphosphepin | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)Cl)C(=C1)C(C)(C)C | C28H40ClO2P
product | 2,4,8,10-Tetra-tert-butyl-6-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxy) dibenzo[d,f][1,3,2]dioxaphosphepin | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)OC3CC(N(C(C3)(C)C)OC)(C)C)C(=C1)C(C)(C)C | C38H60NO4P
